US08802664B2
A solution of benzothiazole (1.35 g) in tetrahydrofurane (10 mL) in a dried round bottom baloon is cooled at −70° C. A solution of butyl lithium (4.1 mL) is added and the mixture stirred for 15 minutes. Benzaldehyde (1.03 mL) diluted with tetrahydrofurane (10 mL) is then added. The mixture is stirred at −70° C. for 1 h, allowed to warm to −20° C. and quenched with saturated aqueous ammonium chloride solution. The mixture is extracted with ethyl acetate. Organic extracts are pooled, dried over magnesium sulfate and concentrated under reduced pressure. Trituration of the residue with diisopropyl oxyde affords benzothiazol-2-ylphenylmethanol.

reactant | benzothiazole | 1.35 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | butyl lithium | 4.1 mL | C(CCC)[Li]
reactant | Benzaldehyde | 1.03 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofurane | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 10 mL | O1CCCC1 | C4H8O
product | benzothiazol-2-ylphenylmethanol | S1C(=NC2=C1C=CC=C2)C(O)C2=CC=CC=C2 | C14H11NOS
